2149-05-17 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2149-5-16**] 10:30 AM
 FEVER - 102.0
F - [**2149-5-16**] 08:00 AM
   Cultures grew back GPC in chains- On vanco and unasyn
   Transiently hypotensive to sys 80's but improved without intervention
   MS [**First Name (Titles) 3046**]
[**Last Name (Titles) 1037**]ies:
   Sulfonamides
   Rash;
   Tegretol (Oral) (Carbamazepine)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-16**] 07:32 PM
   Ampicillin/Sulbactam (Unasyn) - [**2149-5-17**] 05:29 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-17**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 35.9
C (96.7
   HR: 70 (70 - 113) bpm
   BP: 108/77(84) {85/47(57) - 126/77(85)} mmHg
   RR: 6 (6 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 65 Inch
             Total In:
                                                                  6,050 mL
                                                                    377 mL
   PO:
                                                                  1,200 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    850 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    900 mL
   Urine:
                                                                  1,905 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,145 mL
                                                                   -523 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic), 2/6 SEM @ USB, soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Distended, No(t) Tender:
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   10.2 g/dL
   87 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   4 mg/dL
   106 mEq/L
   140 mEq/L
   31.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2149-5-16**]  04:02 AM
                             [**2149-5-17**]  04:30 AM
   WBC
   6.9
   6.6
   Hct
   35.4
   31.1
   Plt
   335
   304
   Cr
   0.4
   0.3
   Glucose
   98
   87
   Other labs: PT / PTT / INR:13.4/35.1/1.1, Differential-Neuts:82.8 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:0.8 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   A/P:
   # Altered MS - mental status clearing during washout of sedating
   medications, likely mental status changes initially due to oxycontin -
   requiring narcan drip
   -hold on narcotics currently and can reintroduce slowly for pain
   # Hypotension - Pt with evidence of hypovolemia on exam, dry MM.
   Received 4L NS in ED with good response to BP.
   -fever, elevated wbc and [**3-14**] gram + cocci in pairs and chains ? strep,
   enterococcus, less likely staph
   -f/u cultures and sensitivities
   -continue broad spectrum abx (vanc / unasyn)
   -surveillance cultures
   -fluid bolus to keep MAP > 65
   -mildly + u/a, urine culture pending
   # Osteo: send ESR and CRP.
   -s/p surgical debridement of osteo [**5-15**] by general surgery
   -plastics consulted, not staffed yet, discuss w/ plastics bone biopsy
   to establish pathogen for treatment
   # Osteomyelitis - Patient with long-standing, recurrent sacral
   decubitous ulcer. Per ED report she had previously been on a wound vac.
   CT scan demonstrating evidence of osteomyelitis. Now s/p debridement.
   -f/u plastics recs
   -continue broad spectrum abx as above
   # Multiple Sclerosis - continue outpatient regimen of neurontin and
   baclofen
   -can restart tizanidine
   # Chronic Pain - continue outpatient regimen as above, hold narcotics
   currently
   # Neurogenic Bladder - foley replaced on [**5-16**] - pt requires indwelling
   foley, followed by urology as outpatient
   # FEN - IVF PRN, regular diet
   -nutrition consult
   -send albumin and pre albumin
   -calorie counts
   #. Prophy - heparin SQ
   # Access - 2 PIV
   # Code - Full
   # Dispo - pending clinical improvement, SW consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-16**] 03:08 AM
   18 Gauge - [**2149-5-16**] 03:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2149-05-17 11:10:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo woman with MS, severe sacral decub, CT confirmed osteo adm with
   fever, altered mental status. Debrided by surgery [**5-15**].
   24 Hour Events:
 EKG - At [**2149-5-16**] 10:30 AM
 FEVER - 102.0
F - [**2149-5-16**] 08:00 AM
   Transient hypotension last night, resolved spontaneously.
   Allergies:
   Sulfonamides
   Rash;
   Tegretol (Oral) (Carbamazepine)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2149-5-17**] 05:29 AM
   Vancomycin - [**2149-5-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-17**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-17**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 35.9
C (96.7
   HR: 75 (69 - 113) bpm
   BP: 87/50(59) {85/47(57) - 126/77(85)} mmHg
   RR: 13 (6 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 65 Inch
             Total In:
                                                                  6,050 mL
                                                                    760 mL
   PO:
                                                                  1,200 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    850 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                  1,340 mL
   Urine:
                                                                  1,905 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,145 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   poor air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, decub packed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   304 K/uL
   87 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   4 mg/dL
   106 mEq/L
   140 mEq/L
   31.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2149-5-16**]  04:02 AM
                             [**2149-5-17**]  04:30 AM
   WBC
   6.9
   6.6
   Hct
   35.4
   31.1
   Plt
   335
   304
   Cr
   0.4
   0.3
   Glucose
   98
   87
   Other labs: PT / PTT / INR:13.4/35.1/1.1, Differential-Neuts:82.8 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:0.8 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   Microbiology: Urine culture pending
   Assessment and Plan
   ID:
   Decub ulcer / osteo / fever / hypotension : suspect sepsis related to
   osteo, BP trend much improved. Good urine output. Seems euvolemic but
   continues to have periods of hypotension. Encourage PO fluids and
   reassess need for any further IV fluids. Decub ulcer/osteo debrided and
   packed
   Cont unasyn and vanco, pending speciation of GPC.
   Obtain bone biopsy at next debridement.
   UTI: foley changed, await urine culture
   Altered mental status : now appears to be at baseline, likely related
   to infection and oxycontin.  No longer requires narcan.
   MS: continue home regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-16**] 03:08 AM
   18 Gauge - [**2149-5-16**] 03:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill, hypotensive

2149-05-18 07:38:00 Physician Resident Progress Note
Chief Complaint: Osteomyelitis
   24 Hour Events: Pt continues on Vancomycin and Unasyn Day 3. Denies
   current pain. Receiving morphine IV w/ dressing changes. Gen [**Doctor First Name 458**] and
   Plastic Surgery following, plan for eventual wound vac.
 BLOOD CULTURED - At [**2149-5-18**] 04:30 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsSulfonamides
   Rash;
   Tegretol (Oral) (Carbamazepine)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2149-5-17**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2149-5-18**] 06:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-18**] 12:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-18**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 80 (74 - 101) bpm
   BP: 85/45(53) {85/40(50) - 129/77(87)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 65 Inch
             Total In:
                                                                  2,042 mL
                                                                    356 mL
   PO:
                                                                  1,100 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    942 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    800 mL
   Urine:
                                                                  2,330 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: Present), (Left DP pulse: Present
   Skin:  Sacral Decub
 dressing in place
   Neurologic: Responds to: Verbal stimuli, alert, moves UE, does not move
   LE
 unchanged
   CV: RRR no MRG
   Resp: CTAB
   Abd: soft, NT/ND, NABS
   Ext: no edema
   Labs / Radiology
   347 K/uL
   10.3 g/dL
   88 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.7 mEq/L
   5 mg/dL
   108 mEq/L
   144 mEq/L
   30.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-16**]  04:02 AM
                             [**2149-5-17**]  04:30 AM
                             [**2149-5-18**]  03:42 AM
   WBC
   6.9
   6.6
   6.4
   Hct
   35.4
   31.1
   30.9
   Plt
   335
   304
   347
   Cr
   0.4
   0.3
   0.3
   Glucose
   98
   87
   88
   Other labs: PT / PTT / INR:13.4/35.1/1.1, Differential-Neuts:82.8 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:0.8 %, Albumin:2.4 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
MICRO:
 [**2149-5-15**] 5:49 pm BLOOD CULTURE      #1 H/C.
   Blood Culture, Routine (Preliminary):
      REPORTED BY PHONE TO [**Last Name (LF) **], [**First Name3 (LF) **] @ 2036 ON [**5-16**].
      STREPTOCOCCUS SPECIES.    ALPHA-HEMOLYTIC.
   Anaerobic Bottle Gram Stain (Final [**2149-5-16**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
[**2149-5-15**] 5:49 pm BLOOD CULTURE      #2 RIGHT  H.
   Blood Culture, Routine (Preliminary):
      BETA STREPTOCOCCUS GROUP B.
   Anaerobic Bottle Gram Stain (Final [**2149-5-17**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
[**2149-5-16**] 4:01 am URINE      Source: Catheter.
                            **FINAL REPORT [**2149-5-17**]**
   URINE CULTURE (Final [**2149-5-17**]):    NO GROWTH.
   [**5-17**] & [**5-18**] Blood Cx - NGTD
   Assessment and Plan
   A/P:
    # Osteo: -s/p surgical debridement of [**5-15**] by general surgery
   -plastics consulted, not staffed yet, discuss w/ plastics bone biopsy
   to establish pathogen for treatment and plan for wound vac placement
   - ID consult to see pt regarding plan for IV abx, ESR and CRP elevated
   - 2 sets of blood cultures positive
 GBS and alpha hemoyltic strep
   will obtain TTE
   - continue Vanc and Unasyn
   - continue daily surveillance cultures
    .
   # Altered MS - mental status improved following holding of sedating
   medications, likely mental status changes initially due to oxycontin -
   requiring narcan
   -          restarting pain meds with dressing changes
   -          treating underlying infection as above
   # Hypotension - Pt with evidence of hypovolemia on exam, dry MM.
   Received 4L NS in ED with good response to BP.
   - resolved, pt does have occassional asx transient drop in BP to high
   80systolic w/ sleep
   .
   # Multiple Sclerosis - continue outpatient regimen of neurontin and
   baclofen
   -can restart tizanidine
   .
   # Chronic Pain - continue outpatient regimen as above, hold narcotics
   currently
   .
   # Neurogenic Bladder - foley replaced on [**5-16**] - pt requires indwelling
   foley, followed by urology as outpatient
   .
    # FEN - IVF PRN, regular diet
   -nutrition consult
   -send albumin and pre albumin
   -calorie counts
   .
   #. Prophy - heparin SQ
   .
   # Access - 2 PIV
 PICC placed on [**5-18**]
   .
   # Code - Full
   .
   # [**Hospital **]
 transfer to medical floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-17**] 06:51 PM
   PICC [**5-18**]
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition : Transfer to medical floor

2149-05-18 11:32:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS, decub ulcer, osteo, mental status change, hypotension
   24 Hour Events:
 BLOOD CULTURED - At [**2149-5-18**] 04:30 AM
   Mild persistent hypotension overnight, received 500cc bolus yesterday
   Allergies:
   Sulfonamides
   Rash;
   Tegretol (Oral) (Carbamazepine)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2149-5-18**] 06:05 AM
   Vancomycin - [**2149-5-18**] 08:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-5-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-18**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 94 (75 - 101) bpm
   BP: 94/54(63) {84/40(50) - 129/77(87)} mmHg
   RR: 16 (9 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 65 Inch
             Total In:
                                                                  2,042 mL
                                                                    893 mL
   PO:
                                                                  1,100 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    942 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                  1,360 mL
   Urine:
                                                                  2,330 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                   -467 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , decub ulcer, probes bone
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   347 K/uL
   88 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.7 mEq/L
   5 mg/dL
   108 mEq/L
   144 mEq/L
   30.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-5-16**]  04:02 AM
                             [**2149-5-17**]  04:30 AM
                             [**2149-5-18**]  03:42 AM
   WBC
   6.9
   6.6
   6.4
   Hct
   35.4
   31.1
   30.9
   Plt
   335
   304
   347
   Cr
   0.4
   0.3
   0.3
   Glucose
   98
   87
   88
   Other labs: PT / PTT / INR:13.4/35.1/1.1, Differential-Neuts:82.8 %,
   Lymph:10.2 %, Mono:5.9 %, Eos:0.8 %, Albumin:2.4 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Microbiology: 2 sets of blood cx:
   GBS and alpha hemolytic strep
   Assessment and Plan
   ID:
   H/O chronic sacral decub, now with first episode of osteo.
   Decub ulcer / osteo / fever / hypotension : suspect sepsis related to
   osteo, BP trend much improved. Good urine output. Not requiring IV
   boluses since yest AM.
   Decub ulcer/osteo debrided and packed. No plans for bone biopsy.
   ESR, CRP to follow trend.
   Plan was for 12 weeks vanco for GPC, however now that we have two
   different organisms, and unclear whether either is the pathogenic org,
   I think it makes sense to pursue bone biopsy by IR. Will obtain ID
   consult for their input on this.
   Cont unasyn and vanco, pending further speciation of GPC.
   UTI: foley changed, neg urine culture
   Altered mental status : now appears to be at baseline, likely related
   to infection and oxycontin.
   MS: continue home regimen
   other issues per Dr[**Doctor Last Name 3056**] note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-5-17**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: